US08022062B2
7-Chloro-6-hydroxy-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine:
Heat a mixture of 6-hydroxy-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (120 g, 0.4629 mol) and toluene (14.4 L) to 70° C. for 45 min until most of the starting material is dissolved. Add diisobutylamine (1.197 g, 1.62 mL, 9.26 mmol) followed by addition of sulfuryl chloride (62.48 g, 37.19 mL, 0.463 mol) in toluene (360 mL) over 20 min. Stir the reaction mixture for 50 min and then add additional sulfuryl chloride (4.536 g, 2.70 mL, 0.0336 mol) neat and stir the reaction mixture for 15 min at 70° C. Cool the reaction mixture to 24° C. over 30 min and then add 1N hydrochloric acid (2.00 L). Separate, wash the organic layer with saturated aqueous NaHCO3 (2.00 L), brine (2.00 L) and then dry over Na2SO4. Filter and remove the solvent with a rotary evaporator at 70° C. until about 672.5 g remains using the minimum effective vacuum in order to maintain a vapor phase sufficient to prevent drying above the solvent line and self-seeding, thus preventing crystallization under these conditions. Using toluene heated to 70° C., transfer the light-yellow solution to a preheated (70° C.) 3-neck flask equipped with a mechanical stirrer. Lower the temperature to 58° C. over 1 h. If available, seed the solution with crystals of 7-chloro-6-hydroxy-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine from a prior synthesis to enhance crystallization. After 30 min, reduce the temperature further to 55° C. and observe the initiation of the crystallization process. Hold the temperature at 55° C. for 2 h. followed by 4 h. at 45° C., then turn off the heat allowing the mixture to slowly reach 24° C. (ambient temperature). After stirring for 8 h. with the heat off, cool the mixture to 0° C. for 2 h. followed by 2 h. at −10° C. Collect the resulting dense, white, granular crystals by vacuum filtration at −10° C. Rinse the crystals twice with cold (−10° C.) toluene and vacuum dry at 50° C., 5 Torr, for 12 h., to obtain the desired intermediate as a white solid (120.7 g, 99.5% purity, 88.8%): mp 133-134° C. MS (ES+) m/z 294 (M+H)+. Anal. Calc'd for C12H11ClF3NO2: C, 49.08; H, 3.78; N, 4.77; Cl, 12.07. Found: C, 49.01; H, 3.63; N, 4.72; Cl, 12.32.

reactant | 6-hydroxy-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.4629 mol, 120 g | OC1=CC=CC=2CCN(CCC21)C(C(F)(F)F)=O | C12H12F3NO2
reactant | sulfuryl chloride | 0.463 mol, 37.19 mL, 62.48 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | hydrochloric acid | 1N, 2.00 L | Cl | ClH
solvent | toluene | 360 mL | C1(=CC=CC=C1)C | C7H8
catalyst | diisobutylamine | 9.26 mmol, 1.62 mL, 1.197 g | C(C(C)C)NCC(C)C | C8H19N
catalyst | sulfuryl chloride | 0.0336 mol, 2.70 mL, 4.536 g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | toluene | 14.4 L | C1(=CC=CC=C1)C | C7H8
product | 7-Chloro-6-hydroxy-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 120.7 g | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)O | C12H11ClF3NO2
